US09352049B2
To pteroic acid dihydrochloride (424 mg, 1.10 mmol) and triethylamine (0.75 mL, 5.50 mmol) in N,N-dimethylformamide (10 mL), propanephosphonic anhydride 50% solution in N,N-dimethylformamide (1.30 mL, 2.23 mmol) was added. After the reaction stirred for 45 minutes at ambient temperature, (5)-tert-butyl 21-amino-2,2-dimethyl-4,18-dioxo-3,8,11,14-tetraoxa-5,17-diazadocosan-22-oate (802 mg, 1.68 mmol) in N,N-dimethylformamide (5 mL) was added, and the reaction was stirred for 16 h at ambient temperature. After this time, the reaction was diluted with diethyl ether (150 mL) and the filtered to give (S)-tert-butyl 21-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,18-dioxo-3,8,11,14-tetraoxa-5,17-diazadocosan-22-oate (849 mg, obtained as a 1:1 mixture with pteroic acid, 50%) as a brown solid that was used in the next step without further purification: MM-APCI MS m/z=794 [M+Na]+.

reactant | pteroic acid dihydrochloride | 1.10 mmol, 424 mg | Cl.Cl.C(C1=CC=C(NCC2=CN=C3N=C(N)NC(=O)C3=N2)C=C1)(=O)O
reactant | triethylamine | 5.50 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
reactant | (5)-tert-butyl 21-amino-2,2-dimethyl-4,18-dioxo-3,8,11,14-tetraoxa-5,17-diazadocosan-22-oate | 1.68 mmol, 802 mg | N[C@@H](CCC(NCCOCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)OC(C)(C)C | C22H43N3O8
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 2.23 mmol, 1.30 mL | CN(C=O)C | C3H7NO
product | (S)-tert-butyl 21-(4-((2-amino-4-hydroxypteridin-6-yl)methylamino)benzamido)-2,2-dimethyl-4,18-dioxo-3,8,11,14-tetraoxa-5,17-diazadocosan-22-oate | NC1=NC2=NC=C(N=C2C(=N1)O)CNC1=CC=C(C(=O)N[C@@H](CCC(NCCOCCOCCOCCNC(OC(C)(C)C)=O)=O)C(=O)OC(C)(C)C)C=C1 | C36H53N9O10
